US04954524
At -70° C., 50 ml of a 1.2-molar solution of diisobutyl aluminum hydride in toluene is added dropwise gradually to a solution of 9.6 g of the ethyl ester of bromobutyric acid in 595 ml of toluene; the mixture is stirred for 15 minutes at -70° C. and then combined dropwise with 10 ml of isopropyl alcohol and 25 ml of water. The mixture is agitated for 2 hours at room temperature, filtered, the filtrate dried with magnesium sulfate and evaporated under vacuum at 25° C. The residue is dissolved in 500 ml of toluene, 10 ml of ethylene glycol and 100 mg of p-toluenesulfonic acid are added, and the mixture is refluxed for 6 hours with the use of a water trap. Subsequently the mixture is diluted with 500 ml of ether, shaken once with a 5% sodium bicarbonate solution and three times with water, the organic extract is dried with magnesium sulfate and concentrated under vacuum at 30° C. Distillation of the residue at 0.6 torr and 43°-45° C. yields 6.8 g of 2-(3-bromopropyl)-1,3-dioxolane as a colorless liquid.

reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | bromobutyric acid | BrC(C(=O)O)CC | C4H7BrO2
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
reactant | water | 25 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 595 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromopropyl)-1,3-dioxolane | 6.8 g | BrCCCC1OCCO1 | C6H11BrO2
